US08022062B2
(±)-2-Aminomethyl-5-(2,2,2-trifluoro-1-methyl-ethoxy)-pyridine:
Add (±)-5-(2,2,2-trifluoro-1-methyl-ethoxy)-pyridine-2-carbonitrile (810 mg, 3.7 mmol), 10% Pd/C (Degussa type E101, 50% water by wt, 300 mg), and trifluoroacetic acid (4 mL) in methanol (50 mL) to a pressure vessel. Pressurize the vessel to 40 psi with hydrogen for 0.25 h. Filter the mixture through Celite® and wash the cake with warm ethanol followed by DCM under a nitrogen atmosphere. Concentrate in vacuo to obtain the crude product as a trifluoroacetic acid salt. Prepare the free base with SCX ion chromatography, then purify by chromatography on silica gel eluting with DCM/2M ammonia in methanol (20:1) to obtain the title compound (676 mg, 82%). GC-MS m/z: 220 (M+).

reactant | (±)-5-(2,2,2-trifluoro-1-methyl-ethoxy)-pyridine-2-carbonitrile | 3.7 mmol, 810 mg | FC(C(OC=1C=CC(=NC1)C#N)C)(F)F | C9H7F3N2O
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | (±)-2-Aminomethyl-5-(2,2,2-trifluoro-1-methyl-ethoxy)-pyridine | NCC1=NC=C(C=C1)OC(C(F)(F)F)C | C9H11F3N2O
